US05087752
2,2,5,5-tetramethyl pyrroline-3-carboxylic acid was prepared by the hydrolysis of 2,2,5,5-tetramethyl pyrroline-3-carboxamide (Frinton; recrystallized from benzene) with barium hydroxide. The acid was recrystallized from water to provide an off-white solid. The measured mp was 300 (dec.) in a sealed tube; the reported mp was 300 dec. (Pauly 1902; Rozantsev 1970).

reactant | 2,2,5,5-tetramethyl pyrroline-3-carboxamide | CC1(NC(CC1C(=O)N)(C)C)C | C9H18N2O
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
product | 2,2,5,5-tetramethyl pyrroline-3-carboxylic acid | CC1(NC(CC1C(=O)O)(C)C)C | C9H17NO2
